US07790756B2
Using a procedure analogous to Example A3, 3-amino-4-fluorophenol (491 mg, 3.86 mmol) and 4-chloropyrimidin-2-amine (500 mg, 3.86 mmol) were combined to give 4-(3-amino-4-fluorophenoxy)pyrimidin-2-amine (509 mg, 59% yield). MS (ESI) m/z: 221.0 (M+H+).

reactant | 3-amino-4-fluorophenol | 3.86 mmol, 491 mg | NC=1C=C(C=CC1F)O | C6H6FNO
reactant | 4-chloropyrimidin-2-amine | 3.86 mmol, 500 mg | ClC1=NC(=NC=C1)N | C4H4ClN3
product | 4-(3-amino-4-fluorophenoxy)pyrimidin-2-amine | 509 mg, 59% yield | NC=1C=C(OC2=NC(=NC=C2)N)C=CC1F | C10H9FN4O
